US04022764
6-Ethyl-6-(m-methoxyphenyl)hexahydro-2H-azepin-2-one (19.6 g) in dry benzene (200 ml.) was added dropwise to a stirred refluxing suspension of sodium hydride (60% suspension in oil; 4.0 g.) in dry benzene (200 ml.) under nitrogen. After the addition had been completed the reaction mixture was heated under reflux for 4 hours and then cooled to 40° C. Methyl iodide (20 ml.) was then added and the mixture stirred and heated at 40°-55° C. overnight. After cooling, the reaction mixture was washed with water, dried over magnesium sulphate and evaporated to an orange oil which was crystallised. The product was recrystallised from light petroleum (b.p. 80°-100° C.) to give 6-ethyl-6-(m-methoxyphenyl)-1-methylhexahydro-2H-azepin-2-one (19.1 g) as colourless crystals, m.p. 69°-71° C. (Found: C, 73.2; H, 8.9; N, 5.4%. C16H23NO2 requires: C, 73.5; H, 8.9; N, 5.4 %)

reactant | 6-Ethyl-6-(m-methoxyphenyl)hexahydro-2H-azepin-2-one | 19.6 g | C(C)C1(CCCC(NC1)=O)C1=CC(=CC=C1)OC | C15H21NO2
reactant | sodium hydride | 4.0 g | [H-].[Na+]
reactant | Methyl iodide | 20 ml | CI | CH3I
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 6-ethyl-6-(m-methoxyphenyl)-1-methylhexahydro-2H-azepin-2-one | 19.1 g | C(C)C1(CCCC(N(C1)C)=O)C1=CC(=CC=C1)OC | C16H23NO2
